US05270331
A solution of the tetrabutylammonium salt of monoethyl diglycolate (16 g, 0.04 mol) in methylene chloride (125 ml) was added to bromochloromethane (200 ml) over 1.5 hr. The resulting solution was stirred at room temperature overnight and then evaporated to dryness. The residue was chromatographed on silica eluting with ethyl acetate/hexane, 40/60 and the fractions containing product combined and evaporated to give ethyl dichloromethyl diglycolate (0.836 g, 10%) as a colorless oil. NMR analysis showed the material to be approximately 70% pure, but was used directly in the next step.

reactant | monoethyl diglycolate | 0.04 mol, 16 g | C(COCC(=O)[O-])(=O)OCC
reactant | bromochloromethane | 200 ml | BrCCl | CH2BrCl
reactant | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
product | ethyl dichloromethyl diglycolate | 0.836 g, 10% | C(COCC(=O)OC(Cl)Cl)(=O)OCC | C7H10Cl2O5
